US09388168B2
To a 200-L glass-lined reactor was charged with 42.7 kg of 2-propanol and 13.6 kg (27.0 mol) of ((S)-2-[4-(2-Chlorophenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-amide. The suspension was stirred at 25-30° C. until the solids dissolved. After adjusting the batch temperature to <15° C., 59.5 kg of 2.0N hydrochloric acid was added over 3.5 h while maintaining a batch temperature of 9-17° C. The mixture was warmed to 18 to 23° C. and stirred for 5.5 h. HPLC analysis at 2 h indicated the reaction was complete. The reaction mixture was transferred into a 500 L glass-lined reactor and diluted with 28.6 kg of purified water and 166.1 kg of methyl tert-butyl ether. The aqueous phase was separated and the organic phase was washed with 1.0N sodium hydroxide solution, 10.7 wt % sodium chloride solution, and 1.0 wt % sodium chloride solution subsequently. The organic phase was transferred into a 200 L glass-line reactor. Solvents were removed by distillation in vacuo at 10-26° C. to a volume of ca. 27 L. The resulting oil was diluted with 107.6 kg of ethanol and solvents were removed by distillation in vacuo at 12-30° C. to afford 19.85 kg (10.04 kg corrected by wt %, 80.4% of yield) of (S)-2-[4-(2-Chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,3-dihydroxy-propyl-1H-pyrazol-3-yl]-amide in ethanol. 1H NMR (300 MHz, DMSO-d6) δ ppm 0.90 (d, J=6.3 Hz, 3 H), 0.94 (d, J=6.3 Hz, 3 H), 1.33-1.50 (m, 1 H), 1.49-1.67 (m, 1 H), 1.68-1.85 (m, 1 H), 3.16-3.32 (m, 2 H), 3.70-3.93 (m, 2 H), 4.09 (m, J=13.6, 3.6 Hz, 1H), 4.21 (d, J=18.4 Hz, 1H), 4.61 (d, J=18.4 Hz, 1 H), 4.71 (t, J=5.6 Hz, 1 H), 4.79 (s, 1 H), 4.88 (dd, J=10.6, 4.8 Hz, 1 H), 4.94 (d, J=5.1 Hz, 1 H), 6.41 (d, J=1.5 Hz, 1 H), 7.37 (t, J=7.5 Hz, 1 H), 7.46 (t, J=7.5 Hz, 1 H), 7.50-7.56 (m, 2 H), 7.65 (d, J=7.5 Hz, 1 H), 10.78 (s, 1 H).

reactant | 2-propanol | 42.7 kg | CC(C)O | C3H8O
reactant | (S)-2-[4-(2-Chlorophenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-amide | CC1(OC[C@H](O1)CN1N=C(C=C1)NC([C@H](CC(C)C)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O)C | C25H31ClN4O5
reactant | hydrochloric acid | 2.0N, 59.5 kg | Cl | ClH
reactant | methyl tert-butyl ether | 166.1 kg | C(C)(C)(C)OC | C5H12O
solvent | water | 28.6 kg | O | H2O
product | (S)-2-[4-(2-Chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-pentanoic acid | 19.85 kg, 80.4% | ClC1=C(OC2=CC(N(C2)[C@H](C(=O)O)CC(C)C)=O)C=CC=C1 | C16H18ClNO4
